US04649150
2-Acetamido-4-(4-nitro-phenyl)-1H-imidazole
A mixture of 2-amino-4-(4-nitro-phenyl)-1H-imidazole (17.3 g) and acetic anhydride (100 ml) was heated at 100° C. for one hour. The resulting solution was evaporated to dryness, and the residue was treated with ether, filtered off and dried to give 18.9 g of the title compound.

reactant | 2-amino-4-(4-nitro-phenyl)-1H-imidazole | 17.3 g | NC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H8N4O2
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetamido-4-(4-nitro-phenyl)-1H-imidazole | 18.9 g | C(C)(=O)NC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O3
